US07888364B2
Procedure F was performed using 60 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide and 93 mg of histamine in 0.5 mL of BuOH. Purified by reverse phase HPLC to yield 6-(2-(1H-imidazol-4-yl)ethylamino)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide. MS (Q1) 433.0 (M)

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 60 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
reactant | histamine | 93 mg | NCCC1=CNC=N1 | C5H9N3
solvent | BuOH | 0.5 mL | C(CCC)O | C4H10O
product | 6-(2-(1H-imidazol-4-yl)ethylamino)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | N1C=NC(=C1)CCNC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C23H21ClN6O
